US08461179B1
To a solution of 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-4-fluoro-2-methylphenyl)-1-isopropyl-1,6-naphthyridin-2(1H)-one (1.0 g, 2.2 mmol) in DCM (10 mL) was added TFA (3 mL) at RT. The resulting mixture was stirred at RT for 6 h, then washed with H2O (6×). The combined aqueous layers were neutralized with NH3.H2O, extracted with DCM (3×) and the combined organic layers were washed with brine, dried (Na2SO4), filtered and concentrated to give 3-(5-amino-4-fluoro-2-methylphenyl)-1-isopropyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one (0.5 g, 66.8% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.41 (s, 1H), 7.60 (s, 1H), 6.95 (m, 1H), 6.90 (d, J=12.4 Hz, 1H), 6.65 (d, J=9.2 Hz, 1H), 6.50 (s, 1H), 5.21 (br s, 1H), 4.95 (s, 2H), 2.92 (d, J=4.8 Hz, 3H), 2.02 (s, 3H), 1.58 (d, J=6.8 Hz, 6H); MS (ESI) m/z: 341.2[M+H]+.

reactant | 7-((4-methoxybenzyl)(methyl)amino)-3-(5-amino-4-fluoro-2-methylphenyl)-1-isopropyl-1,6-naphthyridin-2(1H)-one | 2.2 mmol, 1.0 g | COC1=CC=C(CN(C2=NC=C3C=C(C(N(C3=C2)C(C)C)=O)C2=C(C=C(C(=C2)N)F)C)C)C=C1 | C27H29FN4O2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-amino-4-fluoro-2-methylphenyl)-1-isopropyl-7-(methylamino)-1,6-naphthyridin-2(1H)-one | 0.5 g, 66.8% yield | NC=1C(=CC(=C(C1)C=1C(N(C2=CC(=NC=C2C1)NC)C(C)C)=O)C)F | C19H21FN4O
